US05942536
2-(1-isopropyl-1H-pyrazol-4-yl)-1-ethanol
To a solution of 1.0 gm (9.0 mMol) 2-(4-pyrazolyl)-1-ethanol in 36 mL dimethylformamide were added 2.38 gm (22.5 mMol) sodium carbonate followed by the dropwise addition of a solution of 0.89 mL (9.0 mMol) 2-iodopropane in 8 mL dimethylformamide. The reaction mixture was heated to 100° C. for 18 hours. The reaction mixture was then cooled to ambient and then concentrated under reduced pressure. The residue was partitioned between water and dichloromethane. The organic phase was then washed with water followed by saturated aqueous sodium chloride and was then dried over sodium sulfate. The remaining organics were concentrated under reduced pressure to give 0.36 gm (26.0%) of the title compound as a brown oil.

reactant | 2-(4-pyrazolyl)-1-ethanol | 9.0 mMol, 1.0 gm | N1N=CC(=C1)CCO | C5H8N2O
reactant | sodium carbonate | 22.5 mMol, 2.38 gm | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-iodopropane | 9.0 mMol, 0.89 mL | IC(C)C | C3H7I
solvent | dimethylformamide | 36 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 2-(1-isopropyl-1H-pyrazol-4-yl)-1-ethanol | 0.36 gm, 26.0% | C(C)(C)N1N=CC(=C1)CCO | C8H14N2O
